### ISSUE TITLE
grind linarith : (kernel) application type mismatch

### ISSUE THREAD

**Issue by robin-carlier** [leanprover/lean4#9485]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `linarith` module for `grind` is sometimes hitting a `(kernel) application type mismatch` error. See example below

### Context

I stumbled on this when trying to use grind in [this instance](https://github.com/leanprover-community/mathlib4/blob/82ecf95ecd3b4a4620b9cfca5e027cffa258ee22/Mathlib/CategoryTheory/Action/Limits.lean#L238-L248) in Mathlib.

### Steps to Reproduce

Run the following
```lean
variable (G : Type)

structure G' where p : G

@[ext, grind ext]
theorem ext_ {f g : G' G} (h : f.p = g.p) : f = g := by
  cases f
  subst h
  rfl

variable [Lean.Grind.IntModule G]

instance : Add (G' G) where add f g := ⟨f.p + g.p⟩
@[grind] theorem add_p (f g : G' G) : (f + g).p = f.p + g.p := rfl

instance : Zero (G' G) where zero := ⟨0⟩
@[grind] theorem zero_p : (0 : G' G).p = 0 := rfl

instance : Neg (G' G) where neg x := ⟨-x.p⟩
@[grind] theorem neg_p (f : G' G) : (-f).p = -(f.p) := rfl

theorem add_assoc (f g h : G' G) :
    f + g + h = f + (g + h) := by
  grind [Lean.Grind.AddCommMonoid.add_assoc]
  -- `grind -linarith [Lean.Grind.AddCommMonoid.add_assoc]` works
```
**Expected behavior:** No need to disable the `linarith` option

**Actual behavior:** 
```
(kernel) application type mismatch
  Lean.Grind.Linarith.eq_eq_subst ctx 4 p_3 p_1 p_4 (Eq.refl true)
argument has type
  true = true
but function has type
  Lean.Grind.Linarith.eq_eq_subst_cert 4 p_3 p_1 p_4 = true →
    Lean.Grind.Linarith.Poly.denote' ctx p_3 = 0 →
      Lean.Grind.Linarith.Poly.denote' ctx p_1 = 0 → Lean.Grind.Linarith.Poly.denote' ctx p_4 = 0
```

### Versions
```
Lean 4.23.0-nightly-2025-07-22
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
